US04482560
Then 21 g of thus obtained 8-bromo-5-acetyloxy-3,4-dihydrocarbostyril was dispersed in 150 ml of 8N-hydrochloric acid and was heated under refluxing condition for 3 hours. After the reaction mixture was cooled, the insoluble matters were obtained by filtration, washed with water, dried and recrystallized from methanol-water. 14 Grams of 8-bromo-5-hydroxy-3,4-dihydrocarbostyril was obtained as in the form of colorless needle-like crystals. Melting point: 212°-213° C.

reactant | 8-bromo-5-acetyloxy-3,4-dihydrocarbostyril | BrC=1C=CC(=C2CCC(NC12)=O)OC(C)=O | C11H10BrNO3
reactant | hydrochloric acid | Cl | ClH
product | 8-bromo-5-hydroxy-3,4-dihydrocarbostyril | BrC=1C=CC(=C2CCC(NC12)=O)O | C9H8BrNO2
